US05270465
a) 4-Amino-2-(benzyloxymethyl)pteridine
Obtained using the procedure described in section c of Example 2, starting with 12.0 g )0.10 mole) of 3-amino-2-pyrazinecarbonitrile and 25.0 g (0.15 mole) of 2-(benzyloxy)acetamidine [prepared according to W. J. Haggerty Jr. and W. J. Rost, J. Pharm. Sci. 1969, 58, 50] in 400 ml of absolute ethanol. Refluxing time: 4 hours. Yld: 15.4 g (58%), m.p. 112°-114° C. An analytical sample was obtained by recrystallization from ethanol, followed by washing with dilute hydrochloric acid and finally recrystallization from ethyl acetate. M.p. 131°-133° C.

reactant | 3-amino-2-pyrazinecarbonitrile | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(benzyloxy)acetamidine | 0.15 mole, 25.0 g | C(C1=CC=CC=C1)OCC(=N)N | C9H12N2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 4-Amino-2-(benzyloxymethyl)pteridine | NC1=NC(=NC2=NC=CN=C12)COCC1=CC=CC=C1 | C14H13N5O
